US07935688B2
(4) Synthesis of 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
2,6-Lutidine (1.24 mL, 10.6 mmol) was added to a solution of 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cyclopentanol (Example 32-(3); 1.04 g, 2.13 mmol) in dichloromethane (10.7 mL). Trimethylsilyl triflate (0.92 mL, 5.13 mmol) was added at 0° C., and the mixture was directly stirred for one hour. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (3% ethyl acetate/hexane) to give the title compound (1.04 g, 87%).

reactant | 2,6-Lutidine | 10.6 mmol, 1.24 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cyclopentanol | 2.13 mmol, 1.04 g | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)C#CC1(CCCC1)O)C | C32H43BO3
reactant | Trimethylsilyl triflate | 5.13 mmol, 0.92 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10.7 mL | ClCCl | CH2Cl2
product | 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.04 g, 87% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O[Si](C)(C)C)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C35H51BO3Si
